US04689322
Carrageenans having a moleculr weight of from 100.000 to 800.000 Dalton are known; approximately 25% sulfate-content; various types: kappa-carrageenan: comprised of alternating 1,3 or 1,6, respectively, linked 3,6-anhydro-α-D-galactose and D-galactose-4-sulfate; gel-forming; only partially oxidizable lambda carrageenan: α-1,3-glycosidically linked D-galactose-2(4)-sulfate residues and 1,4-linked D-galactose-2,6-disulfate residues and 1,4-linked-D-galactose-2,6-disulfate residues; does not gel; and still partially oxidizable at C-6: i-carrageenan: from D-galactose-4-sulfate formed in 1,3-linkage and 3,6-anhydro-D-galactose-2-sulfate formed in 1,4-linkage; forms gel with Ca2+.

reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | 3,6-anhydro-α-D-galactose | O[C@@H]1[C@H](O)[C@@H]2[C@@H](O)[C@H](O1)CO2 | C6H10O5
product | 3,6-anhydro-D-galactose-2-sulfate | S(=O)(=O)(O)O[C@@H](C=O)[C@@H]1[C@@H](O)[C@H](O)CO1 | C6H10O8S
